US07384945B2
2-Phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid butyl-amide
0.16 mmol of 2-phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid were dissolved in 1 ml THF with 1 eq. DIC. After 15 min 1.5 eq of butylamine was added and the reaction stirred at room temperature for 16 h. The crude material was purified via reversed phase preparative HPLC. MS(ISP) 498.3 (M+H)+.

reactant | 2-phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid | 0.16 mmol | O(C1=CC=CC=C1)CC1=NC2=C(N1CC1=CC=C(C=C1)OC(F)(F)F)C=CC(=C2)C(=O)O | C23H17F3N2O4
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
reactant | butylamine | 1.5 eq | C(CCC)N | C4H11N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-Phenoxymethyl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole-5-carboxylic acid butyl-amide | C(CCC)NC(=O)C1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C27H26F3N3O3
